US07612067B2
Preparation of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methoxy-thiazol-2-yl}-morpholine
100 mg of 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.22 mmol), 24 mg of sodium methoxide (0.44 mmol) and 21 mg of CuI (0.11 mmol) are put into 4 ml vial with MeOH 3 ml and capped with a Teflon® lined cap. The reaction vial is heated at 130° C. overnight. The reaction mixture is concentrated and applied onto a silica-gel chromatography column (Hexane: THF=10:1) to give 32.8 mg of the title compound. Yield 36%. Mass spectrum (m/e): 416 (M+1). 1H NMR (CDCl3): δ 6.64 (s, 1H), 3.96 (s, 3H), 3.86 (t, J=4.7 Hz, 4H), 3.53 (m, 4H), 3.34 (m, 1H), 2.82 (s, 3H), 2.48 (s, 3H), 1.82 (m, 4H), 0.85 (t, J=7.4 Hz, 6H).

reactant | 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.22 mmol, 100 mg | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
reactant | sodium methoxide | 0.44 mmol, 24 mg | C[O-].[Na+]
catalyst | CuI | 0.11 mmol, 21 mg | [Cu]I
solvent | MeOH | 3 ml | CO | CH4O
product | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methoxy-thiazol-2-yl}-morpholine | 32.8 mg, Yield 36% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N2CCOCC2)OC | C21H29N5O2S
